US09332754B2
Production of 2-(4′-trifluoromethoxyphenyl)ethyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether (present compound No. A-0783)
In 30 ml of tetrahydrofuran were dissolved 0.3 g (1.19 mmol) of 2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenol, 0.29 g (1.41 mmol) of 2-(4′-trifluoromethoxyphenyl)ethanol and 0.41 g (1.56 mmol) of triphenylphosphine. Thereto was added 0.31 g (1.53 mmol) of diisopropyl azodicarboxylate at room temperature, and stirred for 16 hours. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=5:1), and the residue was washed with n-hexane, to obtain 0.21 g (yield: 40%) of an intended product.

reactant | 2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenol | 1.19 mmol, 0.3 g | CC1=C(C=C(C(=C1)C)S(=O)CC(F)(F)F)O | C10H11F3O2S
reactant | 2-(4′-trifluoromethoxyphenyl)ethanol | 1.41 mmol, 0.29 g | FC(OC1=CC=C(C=C1)CCO)(F)F | C9H9F3O2
reactant | triphenylphosphine | 1.56 mmol, 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.53 mmol, 0.31 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(4′-trifluoromethoxyphenyl)ethyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether | 0.21 g, yield: 40% | FC(OC1=CC=C(C=C1)CCOC1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)C)(F)F | C19H18F6O3S
